US05232925
5-[4-(2-(2-Pyrimidinylamino)ethoxy)benzyl]-2,4-thiazolidinedione
A mixture of 5-[4-(2-(2-pyrimidinylamino)ethoxy)benzylidene]-2,4-thiazolidinedione (3 g) and 10% palladium on charcoal (9 g) in DMF (70 ml) was stirred under a pressure of 200 psi of hydrogen until hydrogen uptake ceased. The mixture was filtered through diatomaceous earth, and the filter pad washed exhaustively with DMF. The combined filtrates were evaporated to dryness and the title compound (m.p. 173° C.) obtained following recrystallization from methanol.

reactant | 5-[4-(2-(2-pyrimidinylamino)ethoxy)benzylidene]-2,4-thiazolidinedione | 3 g | N1=C(N=CC=C1)NCCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C16H14N4O3S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 9 g | [Pd] | Pd
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 5-[4-(2-(2-Pyrimidinylamino)ethoxy)benzyl]-2,4-thiazolidinedione | N1=C(N=CC=C1)NCCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C16H16N4O3S
